US04935430
2-Butyl-1-(4-cyanophenyl)imidazo[4,5-c]pyridine
A mixture of 3-amino-4-(4'-cyanophenyl)aminopyridine (Preparation 26(b) (1.26 g, 6.0 mmol) and valeric anhydride (10 ml) was heated under nitrogen at reflux for 16 hours. The mixture was cooled, poured into 2N aqueous sodium hydroxide (100 ml) and left for 15 minutes. The solution was extracted with dichloromethane (3×70 ml), and the extracts were dried (MgSO4) and concentrated under reduced pressure. Purification by flash chromatography (elution with ethyl acetate/methanol, 9:1) gave the title compound, 947 mg, as a brown solid.

reactant | 3-amino-4-(4'-cyanophenyl)aminopyridine | NC=1C=NC=CC1NC1=CC=C(C=C1)C#N | C12H10N4
reactant | valeric anhydride | 10 ml | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
solvent | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
product | 2-Butyl-1-(4-cyanophenyl)imidazo[4,5-c]pyridine | C(CCC)C=1N(C2=C(C=NC=C2)N1)C1=CC=C(C=C1)C#N | C17H16N4
